Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Placement of 20French chest tube into right pleural space

 
History of Present Illness:
___ with history of asthma and congenital atrophic kidney
here after referral from PCP for hydropneumothorax. The patient
was seen by his PCP ___ for a presumed asthma exacerbation. He
was started on a steriod taper and continues to take prednisone
20mg daily. He reports that his symptoms improved but did not
completely resolve. He was then seen today in follow up and had 
a
CXR that demonstrated a 5.8 cm hydropneumothorax at the base of
the right lung.

Pts last asthma exacerbation was over a year ago and he has been
compliant 

 
Past Medical History:
___:
PEPTIC ULCER DISEASE                                            
AIRWAY INFLAMMATION                                             
RECTAL BLEEDING                                                 
ANEMIA                                                          
DYSPHAGIA                                                       
HYPERTENSION                                                    
ASTHMA                                                          

SHx: ___
Family History:
Non-contributory
 
Physical Exam:
Gen: NAD, AxOx3
Card: RRR
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, no rebound or guarding 
Wounds: c/d/i
Ext: No edema, warm well-perfused
 
Pertinent Results:
___ 01:14AM BLOOD WBC-7.5 RBC-4.48* Hgb-12.0* Hct-37.4* 
MCV-84 MCH-26.8 MCHC-32.1 RDW-15.0 RDWSD-45.1 Plt ___
___ 01:14AM BLOOD Neuts-56.3 ___ Monos-9.8 Eos-2.3 
Baso-0.4 Im ___ AbsNeut-4.21 AbsLymp-2.28 AbsMono-0.73 
AbsEos-0.17 AbsBaso-0.03
___ 01:14AM BLOOD Glucose-113* UreaN-14 Creat-1.5* Na-143 
K-4.6 Cl-104 HCO3-30 AnGap-9*
___ 09:24AM BLOOD LD(LDH)-178
___ 01:14AM BLOOD cTropnT-<0.01
___ 09:24AM BLOOD TotProt-6.5
 
Brief Hospital Course:
Mr. ___ was admitted through the emergency department after 
he was found to have a spontaneous pneumothorax. He was treated 
with placement of a ___ Fr chest tube which resulted in rapid 
improvement in his symptoms and re-expansion of his right lung 
on chest xray. Pleural fluid and serum studies were obtained, 
and it was determined that his right sided effusion was most 
consistent with a ruptured bleb. The pleural fluid grew no 
organisms. Because this was the first instance of a spontaneous 
pneumothorax, no operation was indicated at this time. 
Additionally, he was noted to be hypertensive while in the 
hospital so he was treated with Amlodipine with good response. 
We informed him that he should follow up with his PCP to 
determine if he needs to be on any anti-hypertensive medications 
in the future. On hospital day 1 his chest tube was placed to 
water seal and on hospital day 3 the chest tube was removed with 
post-pull CXR showing only a small, stable apical pneumothorax. 
He was discharged in stable condition on hospital day 3 with 
plans to follow up with Dr. ___ in clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 10 mL PO Q8H:PRN Constipation 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN Wheeze 
3. Dulera (mometasone-formoterol) 100-5 mcg/actuation inhalation 
BID 
4. Montelukast 10 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. PredniSONE 15 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 2 tapered doses
7. PredniSONE 10 mg PO DAILY 
Start: After 15 mg DAILY tapered dose 
This is dose # 2 of 2 tapered doses

 
Discharge Medications:
1.  amLODIPine 5 mg PO HS 
RX *amlodipine 5 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 
2.  Dulera (mometasone-formoterol) 100-5 mcg/actuation 
inhalation BID  
3.  Lactulose 10 mL PO Q8H:PRN Constipation  
4.  Montelukast 10 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  PredniSONE 15 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 2 tapered doses 
7.  PredniSONE 10 mg PO DAILY 
Start: After 15 mg DAILY tapered dose 
This is dose # 2 of 2 tapered doses 
8.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN Wheeze  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided spontaneous hydropneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
CHEST TUBE PLACEMENT  
 
 * You were admitted to the hospital for placement of a chest 
tube to treat the air and fluid around your lung and you've 
recovered well. You are now ready for discharge.  
 * Continue to use your incentive spirometer 10 times an hour 
while awake.  
 * Your chest tube dressing may be removed in 48 hours. If it 
starts to drain, cover it with a clean dry dressing and change 
it as needed to keep site clean and dry.  
 * Take Tylenol as needed for pain. Do not exceed 4000mg per day 
 
 * Continue to stay well hydrated and eat well to heal your 
incisions  
 * Shower daily. Wash incision with mild soap & water, rinse, 
pat dry  
 * No tub bathing, swimming or hot tubs until incision healed  
 * No lotions or creams to incision site  
 * Walk ___ times a day and gradually increase your activity as 
you can tolerate.  
 Call Dr. ___ ___ if you experience:  
 -Fevers > 101 or chills  
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.  
 
 ** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**  

 
Followup Instructions:
___